US04199354
B. Dimethyl 5-hydroxy-2-nitroisophthalate
To a suspension of 60 g. of dimethylisophthalate in 600 ml. of methylene chloride are added 200 ml. of concentrated nitric acid, and the mixture is rapidly stirred at room temperature for about 45 min. After this time, 300 ml. of ice water are added, followed by 700 ml. of ethyl acetate. The organic layer is separated, washed with two portions of saturated brine, and dried over anhydrous sodium sulfate. The solvent is removed under reduced pressure, leaving a sticky solid which is triturated with 100 ml. of warm benzene. The insoluble material is collected and washed with benzene to give 19.5 g. (27%) of white to pale yellow solid, m.p. 183°-186° C.

reactant | dimethylisophthalate | COC(C1=CC(C(=O)OC)=CC=C1)=O | C10H10O4
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Dimethyl 5-hydroxy-2-nitroisophthalate | OC=1C=C(C(=C(C(=O)OC)C1)[N+](=O)[O-])C(=O)OC | C10H9NO7
